datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Si:11](C)(CC1=CC=CC=C1)[H:10].Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>C[Si+:11](C)CC1=CC=CC=C1.Cl[C:20]1([H:10])[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]1=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
C[C:81]([C-:10]1CCC[O:72][C:61]1=[O:62])=[O:82].[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C[C:81]([C:10]1([C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)CCC[O:72][C:61]1=[O:62])=[O:82] 10=20
"C[C:62]1=[CH:61][N:10]=[CH:11][NH:12]1.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>C[C:62]1=[CH:61][N:10]([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)[CH:11]=[NH+:12]1 10,11=10,20;12=11,12"
"O=[N+]([O-])C1=CC=C([N:31]=[C:20]=[S:21])C=C1.[O-:10][C:61]1=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]1>>O=[N+]([O-])C1=CC=C([N:31]=[C:20]([O:10][C:61]2=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]2)[S-:21])C=C1 10=20;20,21=21"
"C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].[S-:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C[C:22](=[CH:21][CH:20]([S:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.CC[O:72][C:61]([S-:10])=[S:62]>>CC[O:72][C:61]([S:10][C:20]1(C2=CC=CC=C2)[S:31]CC[S:41]1)=[S:62] 10=20
"CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]CC[O:62]2)S1.C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25]>>CC1=CC=[C:10]([CH:20]([C:21](C)=[N:22][N:23]=[C:24](NC2=CC=CC=C2)[O-:25])[C:31](=[O:32])[N:33](C)C)S1.FC(F)(F)C1=CC(C(F)(F)F)=CC([B-:11]2=[O+:12]CC[O:62]2)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[N:12](C)[C:11](=[N:10]CC1=CC=CC=C1)[N:62](C)C.[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C[N+:12](C)=[C:11]([N:10](CC1=CC=CC=C1)[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[N:62](C)C 10,11=10,20;12=11,12"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=C([N+](=O)[O-])C=C2)[N:62](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:75](C2=CC=CC=C2)=[N:73]1.C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1>>C[N+]1=C([C:22](=[CH:21][CH:20]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[C:11]2=[N+:12](C3=C(C(C)(C)C)C=CC=C3C(C)(C)C)[N:73]=[C:75](C3=CC=CC=C3)[N:62]2C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[C:10](=[C:11]=[N-:12])([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:81]#[N:81]>>CC[O:34][C:32]([C:21]([CH:20]([C:10]([C:11]#[N:12])([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:81]#[N:81])[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1[C:71](=[O:72])[N-:10][C:61](=[O:62])[O:82]1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([N:10]2[C:61](=[O:62])[O:82]C[C:71]2=[O:72])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C:11](C(C)(C)C)=[O+:12][Si:63](C)(C)C)[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:10](C)=[C:11](C)C.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>C[C:10](C)([C+:11](C)C)[CH:20]([C:31]#[C:32][C:33]12C3C4C5C6C1[Cr-3:34]54632(C#[O+])(C#[O+])C#[O+])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.C[Si:63](C)(C)[O:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C[Si:63](C)(C)[O+:12]=[C:11]([CH2:10][CH:20](C1=CC=CC=C1)[CH:21]=[C:22]=[N-:23])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
